US07157488B2
3-Phenylsulfanylbenzaldehyde
Combine 2-(3-phenylsulfanylphenyl)-[1,3]-dioxolane (0.3 g, 1.1 mmol) and acetonitrile (8.0 ml) add a solution of hydrochloric acid (1N, 2.0 ml). After 18 hours, concentrate in vacuum to remove most of the acetonitrile, dilute with water and extract with ether. Combine the organic extracts and wash once with saturated sodium bicarbonate, then with brine. Dry (Na2SO4) the organics, filter, and concentrated to give the title compound.

reactant | 2-(3-phenylsulfanylphenyl)-[1,3]-dioxolane | 1.1 mmol, 0.3 g | C1(=CC=CC=C1)SC=1C=C(C=CC1)C1OCCO1 | C15H14O2S
reactant | hydrochloric acid | 1N, 2.0 ml | Cl | ClH
solvent | acetonitrile | 8.0 ml | C(C)#N | C2H3N
product | 3-Phenylsulfanylbenzaldehyde | C1(=CC=CC=C1)SC=1C=C(C=O)C=CC1 | C13H10OS
